US04752645
(B) α-(2-Propenyl)-[2-(2-aminophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester
To a solution of prepulverized stannous chloride dihydrate (23.82 g, 105.59 mmol) in methanol/concentrated sulfuric acid (318 ml/31.8 ml) at room temperature under a stream of nitrogen was added α-(2-propenyl)-[2-(2-nitrophenyl)--1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester as a solution in 151 ml of methanol. The reaction was run at 40°-58° C. (water bath temperature) for several hours, and then at room temperature overnight. The reaction was quenched by addition of the following reagents in the order specified: Celite, ethyl acetate (389 ml), saturated aqueous potassium carbonate solution (150 ml), and potassium carbonate (101 g), followed by agitation for about 15 minutes. Filtration through two Celite pads (once with a C porosity fritted glass funnel then a D porosity fritted glass funnel) followed by evaporation of the solvents in vacuo yielded a tan oil. Trituration from methanol/water (1 crop) yielded an off-white solid which was recrystallized from methanol (2 crops) to yield 6.87 g of an off-white crystalline solid, melting point 117°-118° C.

reactant | α-(2-propenyl)-[2-(2-nitrophenyl)--1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester | C(C=C)C(C(=O)OC)(C(=O)OC)C(CC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=C(C=C1)OC | C23H25NO7
reactant | water | O | H2O
reactant | methanol water | CO.O
solvent | methanol | 318 ml | CO | CH4O
solvent | methanol | 151 ml | CO | CH4O
product | α-(2-Propenyl)-[2-(2-aminophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester | 6.87 g | C(C=C)C(C(=O)OC)(C(=O)OC)C(CC1=C(C=CC=C1)N)C1=CC=C(C=C1)OC | C23H27NO5
